US05110977
2-(N,N-Dimethylamino)ethyl benzoate
A solution of 70.29 g (0.50 mol) of benzoyl chloride in 500 ml of methylene chloride was added to a solution of 44.57 g (0.50 mol) of 2-dimethylaminoethanol, 20.0 g (0.50 mol) of sodium hydroxide and 500 ml of water over 15 minutes with rapid stirring. Stirring was continued for 3.25 hours after which the organic layer was separated, washed with water, dried over MgSO4 and concentrated. Distillation of the residue gave 59.5 g of product; bp=102°-8° C./0.50 mm.

reactant | benzoyl chloride | 0.50 mol, 70.29 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-dimethylaminoethanol | 0.50 mol, 44.57 g | CN(CCO)C | C4H11NO
reactant | sodium hydroxide | 0.50 mol, 20.0 g | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2-(N,N-Dimethylamino)ethyl benzoate | 59.5 g | C(C1=CC=CC=C1)(=O)OCCN(C)C | C11H15NO2
